US08258160B2
Synthesis of 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a solution of 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylic acid (4.62 g, 14.07) in anhydrous N,N-dimethylformamide (50 mL) was added 1-hydroxybenzotriazole (2.28 g, 16.88 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (3.24 g, 16.88 mmol), N,N-diisopropylethylamine (7.35 mL, 42.20 mmol) and pyridin-3-ylmethanamine (1.72 mL, 16.88 mmol). The reaction mixture was stirred at ambient temperature for 18 hours, diluted with dichloromethane (150 mL) and washed with saturated aqueous sodium bicarbonate (50 mL) and brine (50 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound as a white solid in 51% yield (3.00 g): mp 108-110° C. (dichloromethane/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 9.00 (t, J=6.0 Hz, 1H), 8.72 (s, 1H), 8.57 (s, 1H), 8.48 (d, J=6.0 Hz, 1H), 7.77-7.73 (m, 1H), 7.40-7.36 (m, 1H), 7.31-7.18 (m, 5H), 4.47 (d, J=6.0 Hz, 2H), 2.76-2.61 (m, 7H), 2.03-1.95 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 160.4, 155.1, 152.6, 148.8, 148.7, 148.2, 141.5, 135.2, 134.5, 128.3, 128.2, 125.7, 123.9, 123.5, 119.7, 40.6, 34.4, 30.1, 24.3, 17.1; MS (ES+) m/z 419.4 (M+1).

reactant | 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylic acid | 4.62 g | CC=1N=C(SC1C(=O)O)N1N=NC(=C1)CCCC1=CC=CC=C1 | C16H16N4O2S
reactant | 1-hydroxybenzotriazole | 16.88 mmol, 2.28 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 16.88 mmol, 3.24 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N,N-diisopropylethylamine | 42.20 mmol, 7.35 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyridin-3-ylmethanamine | 16.88 mmol, 1.72 mL | N1=CC(=CC=C1)CN | C6H8N2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 51% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1N=NC(=C1)CCCC1=CC=CC=C1 | C22H22N6OS
